US05756507
Step 19A [2-(3,5-dimethylphenyl)-1H-indol-3-ylmethyl]dimethylamine
To 2.53 g glacial acetic acid was added 2.0 g dimethyl amine (40% aqueous solution) followed by 1.37 g fomalin (37% solution) then 4.0 g 2-(3,5-dimethylphenyl)-1H-indole and the mixture stirred at 0° C. After 15 minutes, 40 mL ethanol was added and the mixture allowed to warm to room temperature. After 1 hour at room temperature, the reaction was quenched by pouring into 50 mL of 1N sodium hydroxide. The resulting mixture was extracted with methylene chloride (4×10 mL) and the combined organics dried over potassium carbonate. Concentration in vacuo gave the crude title compound (4.15 g).

reactant | acetic acid | 2.53 g | C(C)(=O)O | C2H4O2
reactant | dimethyl amine | 2.0 g | CNC | C2H7N
reactant | 2-(3,5-dimethylphenyl)-1H-indole | 4.0 g | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1 | C16H15N
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | [2-(3,5-dimethylphenyl)-1H-indol-3-ylmethyl]dimethylamine | 4.15 g | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1CN(C)C | C19H22N2
